US09101616B2
Step-2: ethyl trans-2-(2-(isopropylamino)pyridin-4-yl)cyclopropanecarboxylate
To a dioxane (5 mL) solution of ethyl trans-2-(2-chloropyridin-4-yl)cyclopropanecarboxylate (250 mg, 1.1 mmol) and isopropylamine (393 mg, 6.7 mmol) were added cesium carbonate (1.1 g, 3.3 mmol), Xantophos (224 mg, 0.4 mmol) and palladium acetate (50 mg, 0.2 mmol) at room temperature respectively. The mixture was sealed and stirred at 100 ° C. for 14 hours. After being filtered off, the filtrate was concentrated under reduced pressure, the residue was applied to a silica gel chromatography column and eluted with a hexane/ethyl acetate =6/1 to furnish 100 mg (36% yield) of the title as a colorless oil.

reactant | ethyl trans-2-(2-chloropyridin-4-yl)cyclopropanecarboxylate | 1.1 mmol, 250 mg | ClC1=NC=CC(=C1)[C@H]1[C@@H](C1)C(=O)OCC | C11H12ClNO2
reactant | isopropylamine | 6.7 mmol, 393 mg | C(C)(C)N | C3H9N
reactant | cesium carbonate | 3.3 mmol, 1.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 0.2 mmol, 50 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | ethyl trans-2-(2-(isopropylamino)pyridin-4-yl)cyclopropanecarboxylate | 36% yield | C(C)(C)NC1=NC=CC(=C1)[C@H]1[C@@H](C1)C(=O)OCC | C14H20N2O2
